US08686002B2
14.3 3-(2-Methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-thione
4.0 g (16.51 mmol) (2-aminobenzyl)(2-methoxybenzyl)amine in 100 mL ethanol was mixed with 40 mL CS2 and heated at reflux for 8 hours, forming a yellow precipitate. The mixture was evaluated and the resulting solids were recrystallized in ethanol; 4.24 g white solids.

reactant | (2-aminobenzyl)(2-methoxybenzyl)amine | 16.51 mmol, 4.0 g | NC1=C(CNCC2=C(C=CC=C2)OC)C=CC=C1 | C15H18N2O
reactant | CS2 | 40 mL | C(=S)=S | CS2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-(2-Methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-thione | COC1=C(CN2C(NC3=CC=CC=C3C2)=S)C=CC=C1 | C16H16N2OS
